US07321040B2
D [2-(6-Chloro-pyridin-3-yloxy)-phenyl]-methanol
To a solution of 2-(6-chloro-pyridin-3-yloxy)-benzaldehyde (250 mg, 1.07 mmol) in methanol at ambient temperature was added sodium borohydride (49 mg, 1.3 mmol). The resulting reaction was stirred for 30 minutes, then quenched with saturated NaHCO3. The methanol was removed in vacuo, and the residue was diluted with water and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate, and concentrated in vacuo to an oil. The crude was purified by flash chromatography (eluting with 25% ethyl acetate/hexane) to give the above named compound as an oil (250 mg, 100%).

reactant | 2-(6-chloro-pyridin-3-yloxy)-benzaldehyde | 1.07 mmol, 250 mg | ClC1=CC=C(C=N1)OC1=C(C=O)C=CC=C1 | C12H8ClNO2
reactant | sodium borohydride | 1.3 mmol, 49 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | [2-(6-Chloro-pyridin-3-yloxy)-phenyl]-methanol | ClC1=CC=C(C=N1)OC1=C(C=CC=C1)CO | C12H10ClNO2
